US07390904B2
1-Cyclohexyloxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine
A mixture of 6.48 g (24.8 mmol) of 4-benzoyloxy-2,2,6,6-tetramethylpiperidine, 1/100th of a solution of 0.270 g of anhydrous sodium carbonate diluted with water to a mass of 100 g (0.00270 g, 0.0254 mmol), and 37 ml of acetonitrile is heated to 80° C. A solution of 3.68 g (54 mmol) of 50% aqueous hydrogen peroxide is added to the reaction mixture over 1.75 hours while the temperature is brought to and maintained at reflux. After the peroxide is added, the reaction mixture is heated at 80° C. for 5 hours, then kept at room temperature overnight. A total of 0.60 g (5.9 mmol) of concentrated hydrochloric acid in 8 ml of water is added to the reaction mixture in portions. After the addition of 25 ml of cyclohexane to the reaction mixture, the temperature is brought to reflux (62° C.). A solution of 0.134 g (0.496 mmol) of ferric chloride hexahydrate in 2.5 ml of water is added to the reaction mixture. A solution of 6.96 g (102 mmol) of 50% aqueous peroxide is added dropwise over 3.25 hours to the reaction mixture while the temperature is maintained at 62° C. After the peroxide is added, the reaction mixture is stirred at reflux for 2 hours. Upon cooling, residual peroxide is decomposed by the addition of aqueous sodium sulfite solution. Work-up with ethyl acetate and purification by flash chromatography afford 3.06 g (34% overall yield) of the title compound. GC assay is 92%.

reactant | 4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 24.8 mmol, 6.48 g | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | sodium carbonate | 0.270 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 54 mmol, 3.68 g | OO | H2O2
reactant | hydrochloric acid | 5.9 mmol, 0.60 g | Cl | ClH
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | acetonitrile | 37 ml | C(C)#N | C2H3N
solvent | water | 8 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
solvent | cyclohexane | 25 ml | C1CCCCC1 | C6H12
product | 1-Cyclohexyloxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C22H33NO3
